US07659393B2
Synthesis of 8b-methyldecahydro-2a,4a,6a,8a-tetraazacyclopenta[fg]acenaphthylene [compound of the formula (IIb); series of steps (II); step (C)]
A 40% strength solution of 61.56 g of pyruvaldehyde in water (342 mmol) in 100 ml of water is added by slow dropwise addition INto a solution of 60.66 g (342 mmol) of triethylenetetraamine hydrate (containing 17% water) in 300 ml of distilled water cooled to 2° C. On completion of addition, the reaction mixture is adjusted to ambient temperature and 81.40 g (684 mmol) of benzotriazole are added in a single portion. 300 ml of ethanol are then added to the reaction medium, then a solution of 49.59 g of glyoxal (40% in water) (342 mmol) in 100 ml of ethanol is added by slow dropwise addition. After 2 h of stirring at ambient temperature, the solution is cooled to 0° C. and 25.87 g (684 mmol) of NaBH4 are added in small portions. After returning to ambient temperature, the reaction medium is stirred for 2 h, the ethanol is evaporated and 70 g of KOH pellets are added to the residue. The solution is then extracted with two 1 l portions of chloroform. After drying over MgSO4 and evaporation of the solvents, (IIb) is isolated in the form of an orange oil (32.3 g; yield=45%).

reactant | pyruvaldehyde | 61.56 g | C(C(=O)C)=O | C3H4O2
reactant | triethylenetetraamine hydrate | 342 mmol, 60.66 g | O.NCCNCCNCCN
reactant | benzotriazole | 684 mmol, 81.40 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | glyoxal | 342 mmol, 49.59 g | C(=O)C=O | C2H2O2
reactant | NaBH4 | 684 mmol, 25.87 g | [BH4-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | water | 300 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 342 mmol | O | H2O
product | 8b-methyldecahydro-2a,4a,6a,8a-tetraazacyclopenta[fg]acenaphthylene | yield=45% | CC12N3CCN4CCN(CCN1CC3)C42 | C11H20N4
